US07915411B2
4-(4-Methoxy-phenoxy)-3-nitro-phenylamine
A solution of 4-chloro-3-nitro aniline (1.0 g, 5.79 mmol), 4-methoxyphenol (0.74 g, 6.00 mmol), cesium carbonate (1.95 g, 6.00 mmol) in dimethylformamide (10 ml) was heated at 100° C. for 16 hours. Afterwards ice water (50 mL) was added to the solution and the resultant slurry was treated with ethyl acetate (100 ml). The layers were separated and the organic layer was washed with 10% sodium bicarbonate and 10% sodium chloride, then dried over anhydrous sodium sulfate. The drying agent was filtered and solvent was removed under vacuum leaving a red solid as the title compound (1.1 g, 73%).

reactant | 4-chloro-3-nitro aniline | 5.79 mmol, 1.0 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-methoxyphenol | 6.00 mmol, 0.74 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | cesium carbonate | 6.00 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(4-Methoxy-phenoxy)-3-nitro-phenylamine | 1.1 g, 73% | COC1=CC=C(OC2=C(C=C(C=C2)N)[N+](=O)[O-])C=C1 | C13H12N2O4
